US07635700B2
To a stirred solution of 2-amino-6-(tert-butoxycarbonylamino-methyl)-benzoic acid (13.0 g, 48.8 mmol), imidazole (3.99 g, 58.6 mmol) in acetonitrile (160 mL), was added acetyl chloride (4.18 mL, 58.6 mmol), and the mixture was stirred at room temp overnight. To the mixture, e was added 3-amino-piperidine-2,6-dione hydrogen chloride (8.03 g, 48.8 mmol), imidazole (6.65 g, 97.6 mmol) and triphenyl phosphite (15.4 mL, 58.6 mmol), and the mixture was heated to reflux for 6 hours. The mixture was cooled to room temperature, and water (500 mL) was added. The suspension was filtered, washed with water (50 mL), ethyl acetate (20 mL), ether (50 mL), and suction dried to give [3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-carbamic acid tert-butyl ester as a brown solid (10.5 g, 54% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 5.50 min (98.5%); mp: 206-208° C.; 1H NMR (DMSO-d6) δ 1.40 (s, 9H, 3CH3), 2.15-2.20 (m, 1H, CHH), 2.55-2.68 (m, 5H, C3, 2C H), 2.79-2.86 (m, 1H, CHH), 4.63-4367 (m, 2H, CH2), 5.22 (dd, J=6, 11 Hz, 1H, NCH), 7.20 (t, J=6 Hz, 1H, NH), 7.32 (d, J=8 Hz, 1H, Ar), 7.48 (d, J=8 Hz, 1H, Ar), 7.76 (t, J=8 Hz, 1H, Ar), 11.02 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.79, 23.27, 28.19, 30.57, 42.82, 56.47, 77.91, 117.53, 123.86, 125.33, 133.92, 141.76, 148.44, 154.76, 155.67, 161.01, 169.51, 172.59; LCMS: MH=401; Anal Calcd for C20H24N4O5+0.5H2O: C, 58.67; H, 6.15; N, 13.68. Found: C, 58.45; H, 5.88; N, 13.34.

reactant | 2-amino-6-(tert-butoxycarbonylamino-methyl)-benzoic acid | 48.8 mmol, 13.0 g | NC1=C(C(=O)O)C(=CC=C1)CNC(=O)OC(C)(C)C | C13H18N2O4
reactant | imidazole | 58.6 mmol, 3.99 g | N1C=NC=C1 | C3H4N2
reactant | acetyl chloride | 58.6 mmol, 4.18 mL | C(C)(=O)Cl | C2H3ClO
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 48.8 mmol, 8.03 g | Cl.NC1C(NC(CC1)=O)=O
reactant | imidazole | 97.6 mmol, 6.65 g | N1C=NC=C1 | C3H4N2
reactant | triphenyl phosphite | 58.6 mmol, 15.4 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | acetonitrile | 160 mL | C(C)#N | C2H3N
solvent | water | 500 mL | O | H2O
product | [3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-carbamic acid tert-butyl ester | 10.5 g, 54% yield | C(C)(C)(C)OC(NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O)=O | C20H24N4O5
